US07713993B2
(4) Synthesis of 8-{1-[3-methoxy-4-(4-methylimidazol-1-yl)phenyl]-(E)-methylidene}-2-pyridin-4-yl-5,6,7,8-tetrahydroimidazo[1,2-a]pyridine
A solution of 3-{1-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]-(E)-methylidene}-1-(2-oxo-2-pyridin-4-ylethyl)piperidin-2-one (150 mg) and ammonium acetate (555 mg) in acetic acid (2 mL) was stirred at 120° C. for five hours. The reaction solution was left to cool to room temperature and concentrated under reduced pressure. Ethyl acetate and saturated sodium bicarbonate water were added to the residue, and the organic layer was separated. The resulting organic layer washed with brine, and then dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (carrier: Chromatorex™ NH; elution solvent: heptane-ethyl acetate system->ethyl acetate-2-propanol) to obtain 121.5 mg of the title compound. The property values of the compound are as follows.

reactant | 3-{1-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]-(E)-methylidene}-1-(2-oxo-2-pyridin-4-ylethyl)piperidin-2-one | 150 mg | COC=1C=C(C=CC1N1C=NC(=C1)C)\C=C/1\C(N(CCC1)CC(C1=CC=NC=C1)=O)=O | C24H24N4O3
reactant | ammonium acetate | 555 mg | C(C)(=O)[O-].[NH4+]
solvent | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
product | 8-{1-[3-methoxy-4-(4-methylimidazol-1-yl)phenyl]-(E)-methylidene}-2-pyridin-4-yl-5,6,7,8-tetrahydroimidazo[1,2-a]pyridine | 121.5 mg | COC=1C=C(C=CC1N1C=NC(=C1)C)\C=C/1\C=2N(CCC1)C=C(N2)C2=CC=NC=C2 | C24H23N5O
